US05739394
233 g of 2,3-dichloro-1,1,1,4,4,4-hexafluorobut-2-ene were added dropwise to 400 ml of toluene, 80 g of ethylene glycol and 80 g of 60% strength sodium hydride in mineral oil at room temperature. The reaction mixture was stirred at 40° C. for 5 hours and water was then added. The organic phase was separated off, the aqueous phase was extracted with methyl t-butyl ether and the combined organic phases were dried over sodium sulfate. After removal of the solvent and subsequent distillation in vacuo, 180 g of 2-chloro-1,1,1,4,4,4-hexafluoro-3,3-ethylenedioxybutane (boiling point: 48° C./16 mbar) were obtained.

reactant | 2,3-dichloro-1,1,1,4,4,4-hexafluorobut-2-ene | 233 g | ClC(C(F)(F)F)=C(C(F)(F)F)Cl | C4Cl2F6
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethylene glycol | 80 g | C(CO)O | C2H6O2
reactant | sodium hydride | [H-].[Na+]
solvent | water | O | H2O
product | 2-chloro-1,1,1,4,4,4-hexafluoro-3,3-ethylenedioxybutane | 180 g | ClC(C(F)(F)F)C1(C(F)(F)F)OCCO1 | C6H5ClF6O2
